US06329389B1
6-Chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid
1N Aqueous sodium hydroxide solution (30 ml) was added dropwise to a mixed solution of ethyl 6-chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate (7.278 g) in THF (90 ml) and methanol (60 ml) at 0° C. The reaction mixture was stirred at room temperature for 18 hours. 1N Hydrochloric acid (30 ml) was added dropwise to the reaction mixture at 0° C., which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. The obtained crude crystals were washed with diethyl ether to obtain the entitled compound (6.06 g).

reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
reactant | ethyl 6-chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate | 7.278 g | ClC=1C=C2CC(C(NC2=CC1)=O)C(=O)OCC | C12H12ClNO3
reactant | Hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | methanol | 60 ml | CO | CH4O
product | 6-Chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid | 6.06 g | ClC=1C=C2CC(C(NC2=CC1)=O)C(=O)O | C10H8ClNO3
